US07365070B2
To a solution of 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzoic acid (1.78 g, 5.1 mol, 1 equiv) in DMF (6 mL) at room temperature were added diisopropylethylamine (DIPEA) (1.95 mL, 11.2 mmol, 2.2 equiv) and fluoro-N,N,N′-tetramethylformamidinium hexafluorophosphate (TFFH) (1.48 g, 5.6 mmol, 1.1 equiv). The homogeneous solution was allowed to stir for 1.5 hr, during which time the color changed to green. Ammonia gas was bubbled into the solution and the color changed to yellow and a precipitate was formed. The heterogeneous slurry was allowed to stir for 5 hr and then diluted with H2O and ethyl acetate. The phases were separated and the organic portion was washed with brine, dried over MgSO4, filtered and concentrated to give 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzamide in quantitative yield. The crude product was used without further purification. LCMS ES+ 352 (M+1), 354 (M+3).

reactant | 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzoic acid | 5.1 mol, 1.78 g, 1 equiv | BrC=1C=CC(=C(C1)CCC1=C(C(=O)O)C=CC=C1F)OC | C16H14BrFO3
reactant | diisopropylethylamine | 11.2 mmol, 1.95 mL, 2.2 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(5-bromo-2-methoxyphenyl)-ethyl]-3-fluorobenzamide | quantitative yield | BrC=1C=CC(=C(C1)CCC1=C(C(=O)N)C=CC=C1F)OC | C16H15BrFNO2
